US04797129
Preparation of 4-chloro-2-(β-methoxyethyl)amino-6-(β-methoxyethyl)aminonitrobenzene
0.2 mole (45.3 g) of 2,4,6-trichloronitrobenzene is added portionwise, with stirring, to 180 ml of 2-methoxyethylamine, heated to 80° C. After the end of the addition the heating is continued for 2 hours 30 minutes. The reaction mixture is diluted with 180 ml of iced water. The expected product precipitates. It is filtered off, washed with water and dried under vacuum at 60° C. in the presence of phosphorus pentoxide. Recrystallized from 96° ethanol, it melts at 90° C.

reactant | 2,4,6-trichloronitrobenzene | 0.2 mole, 45.3 g | ClC1=C(C(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | 2-methoxyethylamine | 180 ml | COCCN | C3H9NO
solvent | water | 180 ml | O | H2O
product | 4-chloro-2-(β-methoxyethyl)amino-6-(β-methoxyethyl)aminonitrobenzene | ClC1=CC(=C(C(=C1)NCCOC)[N+](=O)[O-])NCCOC | C12H18ClN3O4
